US08835672B2
(S)-1-chloro-1-oxopropan-2-yl acetate (37.4 ml, 295.4 mmol) was added slowly to a suspension of 5-amino-2,4,6-triiodoisophthalic acid (50.0 g, 89.5 mmol) in DMA (100 ml) at a temperature of between 25° C. and 29° C. The resulting mixture was heated to about 50° C. and stirred at this temperature for about 8 hours after which heating was removed and the mixture was stirred for about 14 hours at room temperature. The reaction mixture was added slowly over water (500 ml) with strong stirring at a temperature between 22° C. and 30° C. After addition 300 ml of water were added to the suspension. The suspension was stirred for 5 further hours at about 22° C. after which the white solid was filtered and washed with water previously cooled at about 5° C. twice (30 ml each time). The product was dried in a vacuum oven at about 5.0° C. to yield (S)-5-(2-acetoxypropanamido)-2,4,6-triiodoisophthalic acid (48.8 g, 72.5 mmol).

reactant | (S)-1-chloro-1-oxopropan-2-yl acetate | 295.4 mmol, 37.4 ml | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | 5-amino-2,4,6-triiodoisophthalic acid | 89.5 mmol, 50.0 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)O)I | C8H4I3NO4
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
product | (S)-5-(2-acetoxypropanamido)-2,4,6-triiodoisophthalic acid | 72.5 mmol, 48.8 g, Yield: 81% | C(C)(=O)O[C@H](C(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)O)I)C | C13H10I3NO7
